US07858646B2
Synthesis of 1-[4-(6-bromo-pyridin-2-ylmethoxy)-2-hydroxy-3-propyl-phenyl]-ethanone
Combine (6-bromo-pyridin-2-yl)-methanol (1.00 g, 5.32 mmol), 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone (1.033 g, 5.32 mmol) and tri-n-butylphosphine (1.46 mL, 5.85 mmol, Aldrich Chemical Co.) in tetrahydrofuran (5.3 mL), add 1,1′-(azodicarbonyl)dipiperidine (1.48 g, 5.85 mmol, Aldrich Chemical Co.). After 12 hours at ambient temperature, add diethyl ether (white precipitate forms) and filter, collect liquid and remove solvents under reduced pressure. Purify residue by flash chromatography to obtain the title compound as a white solid (854 mg, 2.35 mmol): MS (m/z): 286 (M−Br+1).

reactant | (6-bromo-pyridin-2-yl)-methanol | 5.32 mmol, 1.00 g | BrC1=CC=CC(=N1)CO | C6H6BrNO
reactant | 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone | 5.32 mmol, 1.033 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | tri-n-butylphosphine | 5.85 mmol, 1.46 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 5.85 mmol, 1.48 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 5.3 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[4-(6-bromo-pyridin-2-ylmethoxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 2.35 mmol, 854 mg | BrC1=CC=CC(=N1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC | C17H18BrNO3
